* Ideal crossbar read-energy validation
* rows=128 cols=128 pulse_ns=10
* Each row is collapsed to an equivalent conductance because columns are ideal virtual ground.
Vrow0 row0 0 PULSE(0 0.0150980332141 0 0.001n 0.001n 10n 30n)
Vrow1 row1 0 PULSE(0 -0.0237649949179 0 0.001n 0.001n 10n 30n)
Vrow2 row2 0 PULSE(0 0.0565439706086 0 0.001n 0.001n 10n 30n)
Vrow3 row3 0 PULSE(0 -0.00861666856316 0 0.001n 0.001n 10n 30n)
Vrow4 row4 0 PULSE(0 -0.026765481285 0 0.001n 0.001n 10n 30n)
Vrow5 row5 0 PULSE(0 -0.0221724788253 0 0.001n 0.001n 10n 30n)
Vrow6 row6 0 PULSE(0 0.027589945501 0 0.001n 0.001n 10n 30n)
Vrow7 row7 0 PULSE(0 -0.0367587811343 0 0.001n 0.001n 10n 30n)
Vrow8 row8 0 PULSE(0 0.00656093824194 0 0.001n 0.001n 10n 30n)
Vrow9 row9 0 PULSE(0 -0.0115441014428 0 0.001n 0.001n 10n 30n)
Vrow10 row10 0 PULSE(0 -0.0180226249514 0 0.001n 0.001n 10n 30n)
Vrow11 row11 0 PULSE(0 0.0226953522416 0 0.001n 0.001n 10n 30n)
Vrow12 row12 0 PULSE(0 -0.0272760898968 0 0.001n 0.001n 10n 30n)
Vrow13 row13 0 PULSE(0 0.0933015490287 0 0.001n 0.001n 10n 30n)
Vrow14 row14 0 PULSE(0 0.035901584366 0 0.001n 0.001n 10n 30n)
Vrow15 row15 0 PULSE(0 0.0260011119705 0 0.001n 0.001n 10n 30n)
Vrow16 row16 0 PULSE(0 -0.0598450491144 0 0.001n 0.001n 10n 30n)
Vrow17 row17 0 PULSE(0 0.0432773170974 0 0.001n 0.001n 10n 30n)
Vrow18 row18 0 PULSE(0 0.0209385732304 0 0.001n 0.001n 10n 30n)
Vrow19 row19 0 PULSE(0 -0.0131077872026 0 0.001n 0.001n 10n 30n)
Vrow20 row20 0 PULSE(0 -0.0493580290658 0 0.001n 0.001n 10n 30n)
Vrow21 row21 0 PULSE(0 -0.0291451894551 0 0.001n 0.001n 10n 30n)
Vrow22 row22 0 PULSE(0 -0.0599940272394 0 0.001n 0.001n 10n 30n)
Vrow23 row23 0 PULSE(0 0.0457152740868 0 0.001n 0.001n 10n 30n)
Vrow24 row24 0 PULSE(0 -0.0964682740306 0 0.001n 0.001n 10n 30n)
Vrow25 row25 0 PULSE(0 -0.00216295853781 0 0.001n 0.001n 10n 30n)
Vrow26 row26 0 PULSE(0 0.0390944521985 0 0.001n 0.001n 10n 30n)
Vrow27 row27 0 PULSE(0 -0.00789787275619 0 0.001n 0.001n 10n 30n)
Vrow28 row28 0 PULSE(0 0.0319234401564 0 0.001n 0.001n 10n 30n)
Vrow29 row29 0 PULSE(0 -0.00815378202017 0 0.001n 0.001n 10n 30n)
Vrow30 row30 0 PULSE(0 0.0201622872024 0 0.001n 0.001n 10n 30n)
Vrow31 row31 0 PULSE(0 0.0191137316358 0 0.001n 0.001n 10n 30n)
Vrow32 row32 0 PULSE(0 -0.0215061535278 0 0.001n 0.001n 10n 30n)
Vrow33 row33 0 PULSE(0 -0.028350137724 0 0.001n 0.001n 10n 30n)
Vrow34 row34 0 PULSE(0 0.0183062542581 0 0.001n 0.001n 10n 30n)
Vrow35 row35 0 PULSE(0 0.0574191528763 0 0.001n 0.001n 10n 30n)
Vrow36 row36 0 PULSE(0 0.00864231506408 0 0.001n 0.001n 10n 30n)
Vrow37 row37 0 PULSE(0 -0.0329830458102 0 0.001n 0.001n 10n 30n)
Vrow38 row38 0 PULSE(0 0.0252021976302 0 0.001n 0.001n 10n 30n)
Vrow39 row39 0 PULSE(0 0.0395750145598 0 0.001n 0.001n 10n 30n)
Vrow40 row40 0 PULSE(0 0.0129638888049 0 0.001n 0.001n 10n 30n)
Vrow41 row41 0 PULSE(0 0.0077486401647 0 0.001n 0.001n 10n 30n)
Vrow42 row42 0 PULSE(0 -0.0125859400544 0 0.001n 0.001n 10n 30n)
Vrow43 row43 0 PULSE(0 0.022696670186 0 0.001n 0.001n 10n 30n)
Vrow44 row44 0 PULSE(0 0.0362358068916 0 0.001n 0.001n 10n 30n)
Vrow45 row45 0 PULSE(0 0.0432740954557 0 0.001n 0.001n 10n 30n)
Vrow46 row46 0 PULSE(0 0.0268772977003 0 0.001n 0.001n 10n 30n)
Vrow47 row47 0 PULSE(0 0.0290061331225 0 0.001n 0.001n 10n 30n)
Vrow48 row48 0 PULSE(0 0.0191801942011 0 0.001n 0.001n 10n 30n)
Vrow49 row49 0 PULSE(0 -0.0082121880805 0 0.001n 0.001n 10n 30n)
Vrow50 row50 0 PULSE(0 0.0265095936266 0 0.001n 0.001n 10n 30n)
Vrow51 row51 0 PULSE(0 0.0371880492935 0 0.001n 0.001n 10n 30n)
Vrow52 row52 0 PULSE(0 -0.0264107069895 0 0.001n 0.001n 10n 30n)
Vrow53 row53 0 PULSE(0 -0.1 0 0.001n 0.001n 10n 30n)
Vrow54 row54 0 PULSE(0 0.00465094519896 0 0.001n 0.001n 10n 30n)
Vrow55 row55 0 PULSE(0 -0.0535479350045 0 0.001n 0.001n 10n 30n)
Vrow56 row56 0 PULSE(0 -0.0196018319667 0 0.001n 0.001n 10n 30n)
Vrow57 row57 0 PULSE(0 -0.0153981032164 0 0.001n 0.001n 10n 30n)
Vrow58 row58 0 PULSE(0 -0.0632469683679 0 0.001n 0.001n 10n 30n)
Vrow59 row59 0 PULSE(0 -0.0416211339699 0 0.001n 0.001n 10n 30n)
Vrow60 row60 0 PULSE(0 -0.0193579006323 0 0.001n 0.001n 10n 30n)
Vrow61 row61 0 PULSE(0 -0.0137127248608 0 0.001n 0.001n 10n 30n)
Vrow62 row62 0 PULSE(0 0.00568450104643 0 0.001n 0.001n 10n 30n)
Vrow63 row63 0 PULSE(0 -0.0889905698561 0 0.001n 0.001n 10n 30n)
Vrow64 row64 0 PULSE(0 0.0384429315692 0 0.001n 0.001n 10n 30n)
Vrow65 row65 0 PULSE(0 -0.0182184921276 0 0.001n 0.001n 10n 30n)
Vrow66 row66 0 PULSE(0 0.00513621699078 0 0.001n 0.001n 10n 30n)
Vrow67 row67 0 PULSE(0 0.000227119141689 0 0.001n 0.001n 10n 30n)
Vrow68 row68 0 PULSE(0 0.0198732300776 0 0.001n 0.001n 10n 30n)
Vrow69 row69 0 PULSE(0 0.0176654032166 0 0.001n 0.001n 10n 30n)
Vrow70 row70 0 PULSE(0 0.0184953396623 0 0.001n 0.001n 10n 30n)
Vrow71 row71 0 PULSE(0 0.0300963539754 0 0.001n 0.001n 10n 30n)
Vrow72 row72 0 PULSE(0 -0.0227040809223 0 0.001n 0.001n 10n 30n)
Vrow73 row73 0 PULSE(0 0.0370001618023 0 0.001n 0.001n 10n 30n)
Vrow74 row74 0 PULSE(0 -0.0455037500198 0 0.001n 0.001n 10n 30n)
Vrow75 row75 0 PULSE(0 -0.00159882494098 0 0.001n 0.001n 10n 30n)
Vrow76 row76 0 PULSE(0 -0.0280116636875 0 0.001n 0.001n 10n 30n)
Vrow77 row77 0 PULSE(0 0.00200130975221 0 0.001n 0.001n 10n 30n)
Vrow78 row78 0 PULSE(0 -0.0262739000446 0 0.001n 0.001n 10n 30n)
Vrow79 row79 0 PULSE(0 -0.00561393160805 0 0.001n 0.001n 10n 30n)
Vrow80 row80 0 PULSE(0 0.00522349359441 0 0.001n 0.001n 10n 30n)
Vrow81 row81 0 PULSE(0 -0.00853469614541 0 0.001n 0.001n 10n 30n)
Vrow82 row82 0 PULSE(0 -0.00489139832455 0 0.001n 0.001n 10n 30n)
Vrow83 row83 0 PULSE(0 -0.0968972853227 0 0.001n 0.001n 10n 30n)
Vrow84 row84 0 PULSE(0 0.0267931365107 0 0.001n 0.001n 10n 30n)
Vrow85 row85 0 PULSE(0 -0.0392515756517 0 0.001n 0.001n 10n 30n)
Vrow86 row86 0 PULSE(0 0.0158678183436 0 0.001n 0.001n 10n 30n)
Vrow87 row87 0 PULSE(0 0.0438821119182 0 0.001n 0.001n 10n 30n)
Vrow88 row88 0 PULSE(0 0.0405978089955 0 0.001n 0.001n 10n 30n)
Vrow89 row89 0 PULSE(0 0.0540003332071 0 0.001n 0.001n 10n 30n)
Vrow90 row90 0 PULSE(0 -0.0317046613939 0 0.001n 0.001n 10n 30n)
Vrow91 row91 0 PULSE(0 0.0011224766557 0 0.001n 0.001n 10n 30n)
Vrow92 row92 0 PULSE(0 -0.0397007450107 0 0.001n 0.001n 10n 30n)
Vrow93 row93 0 PULSE(0 -0.0139594433234 0 0.001n 0.001n 10n 30n)
Vrow94 row94 0 PULSE(0 -0.000175031532239 0 0.001n 0.001n 10n 30n)
Vrow95 row95 0 PULSE(0 0.0148762236597 0 0.001n 0.001n 10n 30n)
Vrow96 row96 0 PULSE(0 0.0102825634282 0 0.001n 0.001n 10n 30n)
Vrow97 row97 0 PULSE(0 -0.00710382508742 0 0.001n 0.001n 10n 30n)
Vrow98 row98 0 PULSE(0 -0.0322085050382 0 0.001n 0.001n 10n 30n)
Vrow99 row99 0 PULSE(0 0.0829497467098 0 0.001n 0.001n 10n 30n)
Vrow100 row100 0 PULSE(0 0.0425947275504 0 0.001n 0.001n 10n 30n)
Vrow101 row101 0 PULSE(0 0.0126158962814 0 0.001n 0.001n 10n 30n)
Vrow102 row102 0 PULSE(0 0.0245832295062 0 0.001n 0.001n 10n 30n)
Vrow103 row103 0 PULSE(0 0.0430600219225 0 0.001n 0.001n 10n 30n)
Vrow104 row104 0 PULSE(0 0.0211114688046 0 0.001n 0.001n 10n 30n)
Vrow105 row105 0 PULSE(0 0.0367141078621 0 0.001n 0.001n 10n 30n)
Vrow106 row106 0 PULSE(0 -0.0301977324635 0 0.001n 0.001n 10n 30n)
Vrow107 row107 0 PULSE(0 -0.0672001964673 0 0.001n 0.001n 10n 30n)
Vrow108 row108 0 PULSE(0 0.0388399689071 0 0.001n 0.001n 10n 30n)
Vrow109 row109 0 PULSE(0 0.0045094852383 0 0.001n 0.001n 10n 30n)
Vrow110 row110 0 PULSE(0 0.0373116479874 0 0.001n 0.001n 10n 30n)
Vrow111 row111 0 PULSE(0 -0.0395658009525 0 0.001n 0.001n 10n 30n)
Vrow112 row112 0 PULSE(0 -0.00538884819826 0 0.001n 0.001n 10n 30n)
Vrow113 row113 0 PULSE(0 0.0105326559724 0 0.001n 0.001n 10n 30n)
Vrow114 row114 0 PULSE(0 -0.0566916571962 0 0.001n 0.001n 10n 30n)
Vrow115 row115 0 PULSE(0 -0.0281485546544 0 0.001n 0.001n 10n 30n)
Vrow116 row116 0 PULSE(0 0.0578478136768 0 0.001n 0.001n 10n 30n)
Vrow117 row117 0 PULSE(0 -0.0277233291514 0 0.001n 0.001n 10n 30n)
Vrow118 row118 0 PULSE(0 0.0257967489746 0 0.001n 0.001n 10n 30n)
Vrow119 row119 0 PULSE(0 -0.0553444059864 0 0.001n 0.001n 10n 30n)
Vrow120 row120 0 PULSE(0 -0.0261838165076 0 0.001n 0.001n 10n 30n)
Vrow121 row121 0 PULSE(0 0.0127615735439 0 0.001n 0.001n 10n 30n)
Vrow122 row122 0 PULSE(0 -0.0300411563533 0 0.001n 0.001n 10n 30n)
Vrow123 row123 0 PULSE(0 -0.045087591686 0 0.001n 0.001n 10n 30n)
Vrow124 row124 0 PULSE(0 0.0200133294827 0 0.001n 0.001n 10n 30n)
Vrow125 row125 0 PULSE(0 0.0394298678359 0 0.001n 0.001n 10n 30n)
Vrow126 row126 0 PULSE(0 0.0644945887461 0 0.001n 0.001n 10n 30n)
Vrow127 row127 0 PULSE(0 -0.0115712129265 0 0.001n 0.001n 10n 30n)
Reqrow0 row0 0 55.6657093322
Reqrow1 row1 0 62.0243968911
Reqrow2 row2 0 62.5926515453
Reqrow3 row3 0 58.6754739756
Reqrow4 row4 0 62.0041875703
Reqrow5 row5 0 67.7709308424
Reqrow6 row6 0 51.3736677032
Reqrow7 row7 0 56.0128110059
Reqrow8 row8 0 57.6913957051
Reqrow9 row9 0 67.9068264582
Reqrow10 row10 0 61.614101233
Reqrow11 row11 0 58.570132059
Reqrow12 row12 0 63.1114491199
Reqrow13 row13 0 66.5657208142
Reqrow14 row14 0 52.03679134
Reqrow15 row15 0 54.9294453863
Reqrow16 row16 0 71.9183303528
Reqrow17 row17 0 54.9032577589
Reqrow18 row18 0 57.5464623517
Reqrow19 row19 0 59.9502539727
Reqrow20 row20 0 46.0092760907
Reqrow21 row21 0 60.0544987523
Reqrow22 row22 0 54.6097121082
Reqrow23 row23 0 53.0275486349
Reqrow24 row24 0 63.7060664085
Reqrow25 row25 0 61.8954966478
Reqrow26 row26 0 58.052091823
Reqrow27 row27 0 74.3813997279
Reqrow28 row28 0 55.0278396129
Reqrow29 row29 0 63.0804528207
Reqrow30 row30 0 53.9936434991
Reqrow31 row31 0 57.5380923212
Reqrow32 row32 0 55.2925434848
Reqrow33 row33 0 62.2592604682
Reqrow34 row34 0 55.871889846
Reqrow35 row35 0 68.9735526465
Reqrow36 row36 0 63.7650382458
Reqrow37 row37 0 44.2055105272
Reqrow38 row38 0 57.089787089
Reqrow39 row39 0 79.7558795474
Reqrow40 row40 0 57.1898813763
Reqrow41 row41 0 52.9069147405
Reqrow42 row42 0 65.5112881251
Reqrow43 row43 0 56.4496533408
Reqrow44 row44 0 53.5681539712
Reqrow45 row45 0 59.6138764916
Reqrow46 row46 0 66.5507226333
Reqrow47 row47 0 55.2723542305
Reqrow48 row48 0 56.8588481897
Reqrow49 row49 0 54.568309439
Reqrow50 row50 0 58.9985969439
Reqrow51 row51 0 59.7904778431
Reqrow52 row52 0 54.0654668521
Reqrow53 row53 0 50.4398713656
Reqrow54 row54 0 53.5648959958
Reqrow55 row55 0 55.0909046173
Reqrow56 row56 0 71.2190554099
Reqrow57 row57 0 55.5789228046
Reqrow58 row58 0 59.5276586799
Reqrow59 row59 0 62.9604549314
Reqrow60 row60 0 53.9945644806
Reqrow61 row61 0 57.8370630587
Reqrow62 row62 0 63.0541049342
Reqrow63 row63 0 54.085206057
Reqrow64 row64 0 51.0543259437
Reqrow65 row65 0 63.969269821
Reqrow66 row66 0 64.6117695031
Reqrow67 row67 0 60.486715522
Reqrow68 row68 0 54.6231349026
Reqrow69 row69 0 49.9678431793
Reqrow70 row70 0 58.2833475135
Reqrow71 row71 0 55.0312332585
Reqrow72 row72 0 46.9448439404
Reqrow73 row73 0 56.8311549386
Reqrow74 row74 0 59.5337529951
Reqrow75 row75 0 55.3365895758
Reqrow76 row76 0 55.8002422279
Reqrow77 row77 0 54.6002071096
Reqrow78 row78 0 55.4831617164
Reqrow79 row79 0 67.6873531949
Reqrow80 row80 0 65.359466189
Reqrow81 row81 0 54.6716549214
Reqrow82 row82 0 65.0663078823
Reqrow83 row83 0 69.0608744615
Reqrow84 row84 0 58.3852025164
Reqrow85 row85 0 67.9338021534
Reqrow86 row86 0 51.6597298969
Reqrow87 row87 0 56.5779010527
Reqrow88 row88 0 49.6404453353
Reqrow89 row89 0 51.9787282535
Reqrow90 row90 0 55.2032847195
Reqrow91 row91 0 48.08332694
Reqrow92 row92 0 69.1528440095
Reqrow93 row93 0 53.4348264021
Reqrow94 row94 0 55.2302642696
Reqrow95 row95 0 61.9211016303
Reqrow96 row96 0 59.716017864
Reqrow97 row97 0 64.0805716662
Reqrow98 row98 0 65.9263239379
Reqrow99 row99 0 55.4957090869
Reqrow100 row100 0 51.2261163145
Reqrow101 row101 0 56.215739137
Reqrow102 row102 0 54.1054414132
Reqrow103 row103 0 63.8345286067
Reqrow104 row104 0 54.4163425416
Reqrow105 row105 0 54.2097749088
Reqrow106 row106 0 55.8779894903
Reqrow107 row107 0 66.0160835546
Reqrow108 row108 0 67.3023378339
Reqrow109 row109 0 49.3274745295
Reqrow110 row110 0 51.870728764
Reqrow111 row111 0 61.5602260738
Reqrow112 row112 0 55.1621222346
Reqrow113 row113 0 51.8979247563
Reqrow114 row114 0 60.1756909482
Reqrow115 row115 0 49.0228074429
Reqrow116 row116 0 51.5879019667
Reqrow117 row117 0 57.1412969385
Reqrow118 row118 0 58.2107108273
Reqrow119 row119 0 65.3676260343
Reqrow120 row120 0 61.0428159846
Reqrow121 row121 0 55.8437570236
Reqrow122 row122 0 47.5843192218
Reqrow123 row123 0 49.1375070795
Reqrow124 row124 0 62.886116774
Reqrow125 row125 0 74.8961196127
Reqrow126 row126 0 57.3919354121
Reqrow127 row127 0 58.5449941509
Bpwr pwr 0 v = (v(row0)*v(row0)/55.6657093322) + (v(row1)*v(row1)/62.0243968911) + (v(row2)*v(row2)/62.5926515453) + (v(row3)*v(row3)/58.6754739756) + (v(row4)*v(row4)/62.0041875703) + (v(row5)*v(row5)/67.7709308424) + (v(row6)*v(row6)/51.3736677032) + (v(row7)*v(row7)/56.0128110059) + (v(row8)*v(row8)/57.6913957051) + (v(row9)*v(row9)/67.9068264582) + (v(row10)*v(row10)/61.614101233) + (v(row11)*v(row11)/58.570132059) + (v(row12)*v(row12)/63.1114491199) + (v(row13)*v(row13)/66.5657208142) + (v(row14)*v(row14)/52.03679134) + (v(row15)*v(row15)/54.9294453863) + (v(row16)*v(row16)/71.9183303528) + (v(row17)*v(row17)/54.9032577589) + (v(row18)*v(row18)/57.5464623517) + (v(row19)*v(row19)/59.9502539727) + (v(row20)*v(row20)/46.0092760907) + (v(row21)*v(row21)/60.0544987523) + (v(row22)*v(row22)/54.6097121082) + (v(row23)*v(row23)/53.0275486349) + (v(row24)*v(row24)/63.7060664085) + (v(row25)*v(row25)/61.8954966478) + (v(row26)*v(row26)/58.052091823) + (v(row27)*v(row27)/74.3813997279) + (v(row28)*v(row28)/55.0278396129) + (v(row29)*v(row29)/63.0804528207) + (v(row30)*v(row30)/53.9936434991) + (v(row31)*v(row31)/57.5380923212) + (v(row32)*v(row32)/55.2925434848) + (v(row33)*v(row33)/62.2592604682) + (v(row34)*v(row34)/55.871889846) + (v(row35)*v(row35)/68.9735526465) + (v(row36)*v(row36)/63.7650382458) + (v(row37)*v(row37)/44.2055105272) + (v(row38)*v(row38)/57.089787089) + (v(row39)*v(row39)/79.7558795474) + (v(row40)*v(row40)/57.1898813763) + (v(row41)*v(row41)/52.9069147405) + (v(row42)*v(row42)/65.5112881251) + (v(row43)*v(row43)/56.4496533408) + (v(row44)*v(row44)/53.5681539712) + (v(row45)*v(row45)/59.6138764916) + (v(row46)*v(row46)/66.5507226333) + (v(row47)*v(row47)/55.2723542305) + (v(row48)*v(row48)/56.8588481897) + (v(row49)*v(row49)/54.568309439) + (v(row50)*v(row50)/58.9985969439) + (v(row51)*v(row51)/59.7904778431) + (v(row52)*v(row52)/54.0654668521) + (v(row53)*v(row53)/50.4398713656) + (v(row54)*v(row54)/53.5648959958) + (v(row55)*v(row55)/55.0909046173) + (v(row56)*v(row56)/71.2190554099) + (v(row57)*v(row57)/55.5789228046) + (v(row58)*v(row58)/59.5276586799) + (v(row59)*v(row59)/62.9604549314) + (v(row60)*v(row60)/53.9945644806) + (v(row61)*v(row61)/57.8370630587) + (v(row62)*v(row62)/63.0541049342) + (v(row63)*v(row63)/54.085206057) + (v(row64)*v(row64)/51.0543259437) + (v(row65)*v(row65)/63.969269821) + (v(row66)*v(row66)/64.6117695031) + (v(row67)*v(row67)/60.486715522) + (v(row68)*v(row68)/54.6231349026) + (v(row69)*v(row69)/49.9678431793) + (v(row70)*v(row70)/58.2833475135) + (v(row71)*v(row71)/55.0312332585) + (v(row72)*v(row72)/46.9448439404) + (v(row73)*v(row73)/56.8311549386) + (v(row74)*v(row74)/59.5337529951) + (v(row75)*v(row75)/55.3365895758) + (v(row76)*v(row76)/55.8002422279) + (v(row77)*v(row77)/54.6002071096) + (v(row78)*v(row78)/55.4831617164) + (v(row79)*v(row79)/67.6873531949) + (v(row80)*v(row80)/65.359466189) + (v(row81)*v(row81)/54.6716549214) + (v(row82)*v(row82)/65.0663078823) + (v(row83)*v(row83)/69.0608744615) + (v(row84)*v(row84)/58.3852025164) + (v(row85)*v(row85)/67.9338021534) + (v(row86)*v(row86)/51.6597298969) + (v(row87)*v(row87)/56.5779010527) + (v(row88)*v(row88)/49.6404453353) + (v(row89)*v(row89)/51.9787282535) + (v(row90)*v(row90)/55.2032847195) + (v(row91)*v(row91)/48.08332694) + (v(row92)*v(row92)/69.1528440095) + (v(row93)*v(row93)/53.4348264021) + (v(row94)*v(row94)/55.2302642696) + (v(row95)*v(row95)/61.9211016303) + (v(row96)*v(row96)/59.716017864) + (v(row97)*v(row97)/64.0805716662) + (v(row98)*v(row98)/65.9263239379) + (v(row99)*v(row99)/55.4957090869) + (v(row100)*v(row100)/51.2261163145) + (v(row101)*v(row101)/56.215739137) + (v(row102)*v(row102)/54.1054414132) + (v(row103)*v(row103)/63.8345286067) + (v(row104)*v(row104)/54.4163425416) + (v(row105)*v(row105)/54.2097749088) + (v(row106)*v(row106)/55.8779894903) + (v(row107)*v(row107)/66.0160835546) + (v(row108)*v(row108)/67.3023378339) + (v(row109)*v(row109)/49.3274745295) + (v(row110)*v(row110)/51.870728764) + (v(row111)*v(row111)/61.5602260738) + (v(row112)*v(row112)/55.1621222346) + (v(row113)*v(row113)/51.8979247563) + (v(row114)*v(row114)/60.1756909482) + (v(row115)*v(row115)/49.0228074429) + (v(row116)*v(row116)/51.5879019667) + (v(row117)*v(row117)/57.1412969385) + (v(row118)*v(row118)/58.2107108273) + (v(row119)*v(row119)/65.3676260343) + (v(row120)*v(row120)/61.0428159846) + (v(row121)*v(row121)/55.8437570236) + (v(row122)*v(row122)/47.5843192218) + (v(row123)*v(row123)/49.1375070795) + (v(row124)*v(row124)/62.886116774) + (v(row125)*v(row125)/74.8961196127) + (v(row126)*v(row126)/57.3919354121) + (v(row127)*v(row127)/58.5449941509)
.control
set filetype=ascii
tran 0.05n 10.002n
meas tran energy INTEG v(pwr) FROM=0n TO=10.002n
wrdata experiments/spice/results/cmm_crosssim_read_energy/spice_validation/high_layers_1_cross_attn_v_proj_r0c1.dat v(pwr)
quit
.endc
.end
